US04906643
A mixture of 2.36 parts of 4-pyridinol, 1.2 parts of a sodium hydride dispersion 50% and 18 parts of methylbenzene was stirred for 2 hours at room temperature. A solution of 7.1 parts of cis-1-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-2,4,6-triphenylpyridinium tetrafluoroborate in 9 parts of methylbenzene was added and stirring was continued first for 4 hours at reflux temperature and then overnight at room temperature. The whole was extracted five times with 100 parts of a hydrochloric acid solution 1N. The combined acid aqueous phases were treated with potassium hydroxide and extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified twice by column chromatography over silica gel using first a mixture of trichloromethane and methanol, saturated with ammonia, (90:10 by volume) and then a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.23 parts (28.3%) of cis-4-amino-5-chloro-2-methoxy-N-[3methoxy-1-[2-(4-pyridinyloxy)ethyl]-4piperidinyl]benzamide; mp. 212.2° C. (compound 60).

reactant | 4-pyridinol | N1=CC=C(C=C1)O | C5H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | cis-1-[2-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]ethyl]-2,4,6-triphenylpyridinium tetrafluoroborate | F[B-](F)(F)F.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)OC)C=C1Cl)OC
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | cis-4-amino-5-chloro-2-methoxy-N-[3methoxy-1-[2-(4-pyridinyloxy)ethyl]-4piperidinyl]benzamide | 28.3% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCOC2=CC=NC=C2)OC)C=C1Cl)OC | C21H27ClN4O4
